Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Neurology at bedside for evaluation after code stroke activation
within: 5 minutes

Time/Date the patient was last known well: 11pm on ___

Pre-stroke mRS ___ social history for description): 0

t-PA Administration
 No - Reason t-PA was not given/considered: last known well 11pm
on ___

Endovascular intervention: No

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale - Total 2

1a. Level of Consciousness -0
1b. LOC Questions -0
1c. LOC Commands -0
2. Best Gaze -0
3. Visual Fields -0
4. Facial Palsy -1
5a. Motor arm, left -0
5b. Motor arm, right -0
6a. Motor leg, left -0
6b. Motor leg, right -0
7. Limb Ataxia -0
8. Sensory -0
9. Language -0
10. Dysarthria -1
11. Extinction and Neglect -0

HPI: ___ year old man with past medical history notable only for
prior inguinal hernia repair who presents with acute onset of
room spinning vertigo, nausea and gait unsteadiness. History
provided by patient and family.

Ms. ___ was last known well yesterday night, prior to going 
to
sleep at 11PM. He woke up at approximately 4:30AM from sleep 
with
room-spinning vertigo. The sensation was so prominent that he
woke up from sleep with it and was dry heaving in bed. He
described room spinning vertigo in the horizontal plane that was
constant. He had several episodes of vomiting. His family 
noticed
that he had a mild left facial droop and his speech was slurred
at this time. He did not have any difficulty speaking or
understanding speech. No lateralizing weakness or sensory
changes. He became unsteady on his feet and required two EMS
members to be brought to the ambulance, though denies sway in 
any
particular direction. 

He was brought to ___ where he was initially treated
conservatively for possible BPPV without improvement. He was
given Reflan, Benadryl, Meclizine and fluid boluses without
improvement. He then had a CT head w/o contrast that was
reportedly unremarkable, but unfortunately we do not have those
images. Given that he remained symptomatic, he underwent MRA 
Neck
and head w/o contrast, which reported "near-complete/complete
occlusion of the proximal half of the right vertebral artery, 
and
moderately diminished flow in the distal right vertebral artery"
as well as "diffusely diminuitive left vertebral artery with 
flow
present."  Notably, this MRI neck was performed without 
contrast.
He received Aspirin 325mg x1, and was transferred to ___ due 
to
concern for cerebellar stroke.

During transit from ___ to ___, he reported his
nausea/vomiting and vertigo resolved. He feels near his baseline
apart from mild dysarthria. On arrival to ___, vitals are
unremarkable apart from sinus bradycardia (T 98.1F, HR 45, BP
116/61, RR 16, O2 98% RA).  

Of note, within the last week the patient has had a "chest 
cold,"
described as a productive cough, without fever. He otherwise
reports he has been in his usual state of health. Denies any
recent trauma or head strike. Denies any medication changes.
Denies any visits to the ___. Denies any trips to hair
salons. He denies that anything like this has happened to him
before.  
 
Past Medical History:
Inguinal hernia repair, approximately ___ year ago
Otherwise noncontributory 

 
Social History:
___
Family History:
Denies family history of stroke, early cardiac
disease or other neurologic conditions. 
 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
==============================
Vitals:  T 98.1F, HR 45, BP 116/61, RR 16, O2 98% RA

General: Awake, alert, in no acute distress 
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: warm, well perfused; regular on telemetry
Pulmonary: breathing non labored on room air
Abdomen: Soft, NT, ND, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  Mild dysarthria. Normal prosody. Able to register 
3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. Mild left lower facial droop (UMN pattern). Hearing
intact to finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2     2      2       1       1
 R  2     2      2       1       1

Plantar response was extensor on L, flexor on R  

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements. 

- Gait: Able to stand up with no assistance. Normal initiation.
Narrow base. Normal stride length and arm swing. He is stable 
but
does have mild sway to the left. Negative Romberg. ___
test with mild drift toward left. 

DISCHARGE PHYSICAL EXAM: 
========================
Vitals: 97.9 PO 137 / 72 59 18 99 Ra  
General: Awake, alert, in no acute distress  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: warm, well perfused 
Pulmonary: breathing non labored on room air  
Abdomen: Soft, NT, ND, no guarding  
Extremities: Warm, no edema  

Neurologic Examination:  
 - Mental status: Awake, alert, oriented x 3. Able to relate  
 history without difficulty. Attentive, able to name ___ 
backward  
 without difficulty. Speech is fluent with full sentences, 
intact  
 repetition, and intact verbal comprehension. Able to follow 
both midline  
 and appendicular commands.  
 - Cranial Nerves: PERRL 3->2 brisk. VF full to number counting. 
 
 EOMI, no nystagmus. V1-V3 without deficits to light touch  
 bilaterally. Slight right ptosis. Mild right lower facial 
droop. 
 - Motor: Normal bulk and tone. No drift. No tremor or 
asterixis. Full strength.
  Plantar response down bl
 - Sensory: No deficits to light touch, pin, or proprioception  
 bilaterally.   
 - Coordination:  finger to nose intact bl, overshoot R>L

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 03:40PM BLOOD WBC:5.7 RBC:4.79 Hgb:13.9 Hct:41.5 MCV:87
MCH:29.0 MCHC:33.5 RDW:13.3 RDWSD:41.8 Plt Ct:248
___ 03:40PM BLOOD Plt Ct:248
___ 03:40PM BLOOD ___ PTT:26.8 ___
___ 03:49PM BLOOD Creat:1.0
___ 05:08PM BLOOD %HbA1c:5.4 eAG:108
___ 03:46PM BLOOD Glucose:87 Na:143 K:5.2* Cl:111*
calHCO3:20*

IMAGING:
=======
CT head w/o contrast ___: Chronic encephalomalacia within the
left cerebellum. No evidence of acute territorial infarction or
intracranial hemorrhage. Consider MR if there is continued
concern for acute infarct. 
  
CTA head and neck ___: Bilateral vertebral arteries are small 
in
caliber. The proximal portion of the right vertebral artery is
not visualized. This is likely due to occlusion of undetermined
chronicity. Otherwise, there is no evidence of high-grade
stenosis, large vessel occlusion or aneurysm in the 
remaining vessels. 

MRI ___:
1. Moderately motion degraded study. 
2. No acute infarction. 
3. Bilateral cerebellar chronic infarcts. 
4.  Within limits of study, no definite evidence of vertebral 
artery 
dissection.  Additional areas of right V1 and V2 probable 
artifacts on 
fat-suppressed T1 weighted imaging, as described. 
5. Right vertebral artery origin, V1 and proximal V2 segments 
not definitely 
visualized, with flow noted within the distal V2, V3 and V4 
segments. 

ECHO ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. With Valsalva (but not cough) 
maneuver, there is early appearance of agitated 
saline/microbubbles in the left atrium/left ventricle most 
consistent with a patent foramen ovale. The estimated right 
atrial pressure is ___ mmHg. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function 
(biplane LVEF = 71 %). No masses or thrombi are seen in the left 
ventricle. Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. There is borderline pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Likely patent foramen ovale present with passage of 
saline contrast from the right to left heart with Valsalva 
maneuver. Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. Mildly 
dilated ascending aorta. Borderline pulmonary hypertension.  

INTERVAL LABS: 
==============
___ 09:49AM BLOOD WBC-4.6 RBC-5.29 Hgb-15.2 Hct-46.3 MCV-88 
MCH-28.7 MCHC-32.8 RDW-13.5 RDWSD-43.0 Plt ___
___ 09:49AM BLOOD Glucose-102* UreaN-13 Creat-1.0 Na-145 
K-4.1 Cl-103 HCO3-28 AnGap-14
___ 09:49AM BLOOD ALT-15 AST-20 AlkPhos-59 TotBili-0.9
___ 05:08PM BLOOD %HbA1c-5.4 eAG-108
___ 05:35AM BLOOD Triglyc-135 HDL-36* CHOL/HD-5.0 
LDLcalc-116
___ 09:49AM BLOOD TSH-1.6
___ 02:39PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:39PM URINE Color-Yellow Appear-Clear Sp ___ year old man with past medical history notable only for prior 
inguinal hernia repair who presents with acute onset of room 
spinning vertigo, nausea and gait unsteadiness.  Neurologic exam 
was initially significant for mild dysarthria, mild left facial 
droop, subtle signs of ataxia on the left. 

Neurologic exam during his stay and at the time of discharge was 
significant for mild right facial droop, mild right ptosis that 
resolved, subtle bilateral left more than right ataxia in upper 
extremities. He had steady normal gait with no functional 
disability. No nystagmus was seen. He was asymptomatic during 
his admission. 

His MRI Brain was negative for acute stroke. However, it did 
show some possible encephalomalacia in the bilateral cerebellum 
left more than right. The left cerebellar encephalomalacia 
appeared more consistent with prior inferior cerebellar stroke. 
The small area on the right cerebellum is not clearly related to 
an old stroke. He should follow up with neurology for an exam 
and determination for outpatient workup for possible prior 
stroke. 

His CTA Head and Neck showed right vertebral proximal occlusion 
with reconstitution in V2. This occlusion is likely chronic and 
could represent an old dissection. Echocardiogram was also 
obtained which showed normal LA size, +bubble consistent with 
PFO, no LV mass or thrombus, EF >55%. 

HBA1C was 5.4, Chol 179, LDL 116, TSH 1.6. 

Therefore, Aspirin 81mg daily and Atorvastatin 40mg QHS were 
started for secondary stroke prevention. 

In terms of his presenting symptoms, this was likely due to a 
peripheral vestibulopathy/vestibular neuritis in the setting of 
his upper respiratory infection. He had been having cough, 
congestion with chills for several days. He was febrile to 101 
overnight on ___, but no leukocytosis. His CXR was w/o 
consolidation. This is thought to be a viral process so no 
antibiotics were given. 

=====================
TRANSITIONAL ISSUES
=====================
- Started Aspirin and Atorvastatin during this hospitalization
- Neurology follow up - Direct further workup with possible 
prior strokes and +PFO study on Echocardiogram. 
- Primary Care Follow up - Monitor LDL, follow-up blood pressure 
control

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin B Complex 1 CAP PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*5 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*5 
3.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vestibular Neuritis 
Peripheral Vestibulopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,
 
 You were hospitalized due to symptoms of vertigo, gait 
unsteadiness, nausea that were most likely secondary to 
something called vestibular neuritis or dysfunction of the 
vestibular nerve most likely secondary to a viral infection. We 
think this is likely the case due to the upper respiratory 
symptoms you were having before coming to the hospital and this 
was further supported by the ear pain you were experiencing as 
well as the fever you had in the hospital overnight. We did send 
an infectious workup for the fever but we are not suspicious for 
a bacterial infection because you were well appearing and your 
blood tests did not show any elevated white blood cell count. 

On your workup for the possibility of a stroke, you had a Brain 
MRI that was negative for new/acute stroke. There may have been 
signs of old strokes in the back part of your brain on your 
imaging - However, we are not entirely sure of this because you 
never had any symptoms in the past. It is unclear how long these 
changes have been there. 

A CT of the vessels going to your neck that showed an old 
occlusion of one of the arteries to the back of your head. It is 
unclear how long this has been there as well. 

Therefore, we would suggest that you follow up with neurology as 
an outpatient for a repeat evaluation some time for now to see 
if you have any underlying exam abnormalities at baseline. 
Depending on this, your neurologist may want to send a further 
workup as an outpatient. 

Medication Changes: 

- Started aspirin 81mg daily 
- Started Atorvastatin 40mg at night

Both of these medications are for secondary stroke prevention. 

 Please followup with Neurology and your primary care physician.

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___